US07091214B2
8-Bromo-1-isobutyl-1H-imidazo[4,5-c]quinolin-4-amine and 2,4-dimethoxybenzeneboronic acid were coupled according to the general procedure described in Part J of Example 1. Purification by chromatography on silica gel (7% methanol in CH2Cl2) afforded 8-(2,4-dimethoxyphenyl)-1-isobutyl-1H-imidazo[4,5-c]quinolin-4-amine as a white solid, m.p. 223–227° C.

reactant | 8-Bromo-1-isobutyl-1H-imidazo[4,5-c]quinolin-4-amine | BrC1=CC=2C3=C(C(=NC2C=C1)N)N=CN3CC(C)C | C14H15BrN4
reactant | 2,4-dimethoxybenzeneboronic acid | COC1=C(C=CC(=C1)OC)B(O)O | C8H11BO4
product | 8-(2,4-dimethoxyphenyl)-1-isobutyl-1H-imidazo[4,5-c]quinolin-4-amine | COC1=C(C=CC(=C1)OC)C1=CC=2C3=C(C(=NC2C=C1)N)N=CN3CC(C)C | C22H24N4O2
